US04880939
Under argon atmosphere, a solution of n-butyllithium in hexane (1.58N, 41.8 ml, 0.066 mol) was dropwise added to a solution of dimethyl methylphosphonate (8.2 g, 0.066 mol) in anhydrous THF (120 ml) with stirring at -78° C., and the mixture was further stirred for 30 minutes. To the mixture there was dropwise added a solution of ethyl 2-methyl-4-octynoate (5.0 g, 0.0275 mol) containing 13% of methyl 2-methyl-4-octynoate in anhydrous THF (10 ml), and the whole mixture was stirred for 30 minutes. At 0° C., acetic acid (4 ml) and water (20 ml) were added to the reaction mixture followed by concentration. After water (30 ml) was added to the residue, the mixture was extracted with ethyl acetate (50 ml×2). Ethyl acetate layers were combined, washed with water (20 ml) and with brine (20 ml), and dried over anhydrous sodium sulfate to concentrate. The residue was subjected to vacuum distillation (b.p.=127°-130° C. at 0.22 mmHg), yielding dimethyl 3-methyl-2-oxo-5-nonanylphosphonate (6.82 g, 0.026 mol, 95.4% yield) as a colorless, transparent oil. The structure of this product was confirmed by the following data.

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.066 mol, 1.58N, 41.8 ml | CCCCCC | C6H14
reactant | dimethyl methylphosphonate | 0.066 mol, 8.2 g | CP(OC)(OC)=O | C3H9O3P
reactant | ethyl 2-methyl-4-octynoate | 0.0275 mol, 5.0 g | CC(C(=O)OCC)CC#CCCC | C11H18O2
reactant | methyl 2-methyl-4-octynoate | CC(C(=O)OC)CC#CCCC | C10H16O2
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | dimethyl 3-methyl-2-oxo-5-nonanylphosphonate | 0.026 mol, 6.82 g, 95.4% yield | CC(C(C)=O)CC(CCCC)P(OC)(OC)=O | C12H25O4P
